US08222416B2
A mixture of 2-{4-[2-cyclopentyl-1-(5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol (100 mg, 0.266 mmol) and 10% palladium on activated carbon (50 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo and purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-{4-[2-cyclopentyl-1-(5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-propan-2-ol (24 mg, 24%) as a white solid: LC/MS m/e calcd for C24H30N2O2 [M+H]+ 379.52, observed 379.2; 1H NMR (400 MHz, CD3OD) δ ppm 1.21 (m, 2H), 1.48 (m, 2H), 1.50 (s, 6H), 1.57-1.91 (m, 5H, H), 2.08 (m, 1H), 2.17 (m, 1H), 3.86 (s, 3H), 4.12 (t, J=7.8 Hz, 1H), 6.30 (s, 1H), 7.27 (d, J=8.3 Hz, 2H), 7.42 (d, J=8.3 Hz, 2H), 7.58 (d, J=2.5 Hz, 1H), 7.82 (br, 1H).

reactant | 2-{4-[2-cyclopentyl-1-(5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol | 0.266 mmol, 100 mg | C1(CCCC1)C=C(C1=CC=2C(=NC=C(C2)OC)N1)C1=CC=C(C=C1)C(C)(C)O | C24H28N2O2
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-{4-[2-cyclopentyl-1-(5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-propan-2-ol | 24 mg, 24% | C1(CCCC1)CC(C1=CC=2C(=NC=C(C2)OC)N1)C1=CC=C(C=C1)C(C)(C)O | C24H30N2O2
